US06235778B1
b) 3-[5-methyl-3-(2-(4-(2-methoxyphenyl)piperazinylsulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride
The title compound was prepared in 33% yield from N,N′-bis-(tert-butoxycarbony)-3-[5-methyl-3-(2-(4-(2-methoxyphenyl)piperazinylsulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine, as prepared in the previous step, in a manner analogous to step i of Example 20 (without HCl-methanol acidification). 1H NMR (300 MHz, CDCl3) δ8.21 (m, 2H), 7.81 (t, 1H, J=7.5 Hz), 7.69 (t, 1H, J=7.5 Hz), 7.00 (m, 1H), 6.89 (m, 3H), 6.58 (s, 2H), 6.53 (s, 1H), 3.95 (m, 4H), 3.82 (s, 3H), 3.53 (m, 4H), 3.11 (m, 4H), 2.22 (s, 3H), 2.03 (m, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C28H35N5O8S2: 634.2 (M+H), 656.2 (M+Na). Found: 634.2, 656.3.

reactant | N,N′-bis-(tert-butoxycarbony)-3-[5-methyl-3-(2-(4-(2-methoxyphenyl)piperazinylsulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine | C(C)(C)(C)OC(=O)N(C(=N)NC(=O)OC(C)(C)C)OCCCOC1=CC(=CC(=C1)C)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C38H51N5O12S2
reactant | HCl methanol | Cl.CO
reactant | α-cyano-4-hydroxycinnamic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)O | C10H7NO3
product | 3-[5-methyl-3-(2-(4-(2-methoxyphenyl)piperazinylsulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride | 33% yield | Cl.CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | InChI=1S/C28H35N5O8S2.ClH/c1-21-18-22(39-16-7-17-40-31-28(29)30)20-23(19-21)41-43(36,37)27-11-6-5-10-26(27)42(34,35)33-14-12-32(13-15-33)24-8-3-4-9-25(24)38-2;/h3-6,8-11,18-20H,7,12-17H2,1-2H3,(H4,29,30,31);1H
